US08455514B2
To (S)-2-(tert-butoxycarbonyl(methyl)amino)-4-methylpentanoic acid in DMF was added EDC, DMAP and isoquinolin-7-amine. This mixture was stirred for 4 hours and the reaction was washed with NaHCO3 (sat), extracted with EtOAc, dried (Na2SO4), filtered and evaporated. Column chromatography (SiO2, Hexanes/EtOAc) gave pure (S)-tert-butyl 1-(isoquinolin-7-ylamino)-4-methyl-1-oxopentan-2-yl(methyl)carbamate (E87).

reactant | (S)-2-(tert-butoxycarbonyl(methyl)amino)-4-methylpentanoic acid | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)CC(C)C)C | C12H23NO4
reactant | EDC
reactant | isoquinolin-7-amine | C1=NC=CC2=CC=C(C=C12)N | C9H8N2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-tert-butyl 1-(isoquinolin-7-ylamino)-4-methyl-1-oxopentan-2-yl(methyl)carbamate | C1=NC=CC2=CC=C(C=C12)NC([C@H](CC(C)C)N(C(OC(C)(C)C)=O)C)=O | C21H29N3O3
